US04136188
A mixture of 2.26 g of benzhydrylamine and 30 ml of an ethyl ether solution containing 2.5 g of 2-chloro-2-imidazoline was allowed to stand at room temperature for 2 days. The reaction mixture was then treated in the same manner as in Synthesis Example 1 to give crystals of 2-benzhydryliminoimidazolidine. The crystals were dissolved in methanol and an equivalent amount of concentrated hydrochloric acid solution was added. The solution was distilled off in vacuo to give 3.2 g of 2-benzhydryliminoimidazolidine hydrochloride having a melting point of 207°-209° C.

reactant | benzhydrylamine | 2.26 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | 2-chloro-2-imidazoline | 2.5 g | ClC=1NCCN1 | C3H5ClN2
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
product | 2-benzhydryliminoimidazolidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N=C1NCCN1 | C16H17N3
